US06136972
To a 50 gallon glass lined reactor was added 23.07 pounds (0.769 mole--1.04 equiv.) of paraformaldehyde, followed by 92 pounds (%Wt/Wt Phenol to Solvent--100%) of acetonitrile, and then 92 pounds (0.739 mole--1.0 equiv.) of 98.0% pure m-ethylphenol. The mixture was heated to 65° C., and 66.2 pounds (0.761 mole--1.03 equiv.) of morpholine was added at a rate of 0.5 lb./min. during a two hour period. Upon completion of addition, the reaction mixture was heated to 65-70° C. where it stirred for three hours. After this time, the reaction mixture was concentrated under vacuum at 70° C., yielding 171 pounds of 89.4% pure 2-(morpholin4-ylmethyl)-5-ethylphenol (93% yield).

reactant | paraformaldehyde | 23.07 pounds | C=O | CH2O
reactant | m-ethylphenol | 92 pounds | C(C)C=1C=C(C=CC1)O | C8H10O
reactant | morpholine | 66.2 pounds | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 92 pounds | C(C)#N | C2H3N
product | 2-(morpholin4-ylmethyl)-5-ethylphenol | 171 pounds, 93% yield | N1(CCOCC1)CC1=C(C=C(C=C1)CC)O | C13H19NO2
